US05180735
In dichloromethane (0.5 ml) were dissolved 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxy-1,4-cyclohexanediol (100 mg) and triethylamine (64 μl). To the solution was added dropwise, under ice-cooling, methanesulfonylchloride (20 μl ). The mixture was stirred for 15 minutes, to which was added water to suspend the reaction. The product was extracted with ethyl acetate. The extract solution was washed with a saturated aqueous solution of sodium chloride, which was then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (carrier 10 g, developing solvent: ethyl acetate - hexane=2:1) to give 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-methanesulfonyloxymethylbenzyl)thiomethyl-3-methoxy-1,4-cyclohexanediol (98 mg: yield 83%) as a colorless oily product.

reactant | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-hydroxymethylbenzyl)thiomethyl-3-methoxy-1,4-cyclohexanediol | 100 mg | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSCC1=C(C=CC=C1)CO | C24H36O5S
reactant | triethylamine | 64 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 20 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-1-(2-methanesulfonyloxymethylbenzyl)thiomethyl-3-methoxy-1,4-cyclohexanediol | 98 mg, yield 83% | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CSCC1=C(C=CC=C1)COS(=O)(=O)C | C25H38O7S2
